US08222245B2
7-{5-[2-(Trifluoromethyl)-4-biphenylyl]-1,2,4-oxadiazol-3-yl}-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride
1,1-Dimethylethyl-7-{5-[2-(trifluoromethyl)-4-biphenylyl]-1,2,4-oxadiazol-3-yl}-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (Preparation 45) (440 mg, 0.82 mmol) was dissolved in 4M HCl in dioxane (3 ml) and the solution stirred for 2 h. The title compound was filtered off as a white solid (376 mg, 0.82 mmol). δH (d6DMSO, 400 MHz): 9.27 (2H, brs), 8.53 (1H, d), 8.51 (1H, dd), 8.01 (1H, d), 7.97 (1H, dd), 7.74 (1H, d), 7.54-7.50 (3H, m), 7.47 (1H, d), 7.43-7.39 (2H, m), 3.28-3.20 (8H, m). MS (ES): C25H20F3N3O requires 435; found 436 [M+H]+.

reactant | 1,1-Dimethylethyl-7-{5-[2-(trifluoromethyl)-4-biphenylyl]-1,2,4-oxadiazol-3-yl}-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 0.82 mmol, 440 mg | CC(C)(C)C1CN(CCC2=C1C=CC(=C2)C2=NOC(=N2)C2=CC(=C(C=C2)C2=CC=CC=C2)C(F)(F)F)C(=O)[O-]
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 7-{5-[2-(Trifluoromethyl)-4-biphenylyl]-1,2,4-oxadiazol-3-yl}-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.FC(C1=C(C=CC(=C1)C1=NC(=NO1)C1=CC2=C(CCNCC2)C=C1)C1=CC=CC=C1)(F)F | InChI=1S/C25H20F3N3O.ClH/c26-25(27,28)22-15-20(8-9-21(22)17-4-2-1-3-5-17)24-30-23(31-32-24)19-7-6-16-10-12-29-13-11-18(16)14-19;/h1-9,14-15,29H,10-13H2;1H
